US07163952B2
(1) 4-cyclohexylbenzyl alcohol
Under a nitrogen stream, tetrahydrofuran (1.2 L, 15.0 v/w) was added to 4-cyclohexylbenzoic acid (80.0 g, 0.382 mol) and then isobutyl chlorocarbonate (52.0 ml, 0.401 mol) was added. Triethylamine (56.0 ml, 0.401 mol) was added to the reaction mixture with stirring under ice-cooling and the mixture was stirred at the same temperature for 30 min. The resulting precipitate was collected by filtration. To a suspension of sodium borohydride (58.0 g, 1.53 mol) in tetrahydrofuran (160 ml, 2.0 v/w) prepared in a different reaction vessel was carefully added the above-mentioned filtrate with stirring under ice-cooling under a nitrogen stream. After stirring at room temperature for 1.5 hr, distilled water (160 ml, 2.0 v/w) was added with stirring under ice-cooling. After stirring under ice-cooling for 20 min, 2N-hydrochloric acid (825 ml, 4.3 eq) was added. After stirring at room temperature for 30 min, the mixture was extracted with ethyl acetate (400 ml) and the organic layer was washed successively with distilled water (100 ml), 2N-aqueous sodium hydroxide solution (100 ml), distilled water (100 ml) and saturated brine (100 ml), and dried over magnesium sulfate (70 g). After filtration and solvent evaporation, the residue was dried in vacuo to give the title compound (63.8 g, yield 87.8%) as a white solid.

reactant | 4-cyclohexylbenzoic acid | 0.382 mol, 80.0 g | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | isobutyl chlorocarbonate | 0.401 mol, 52.0 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | Triethylamine | 0.401 mol, 56.0 ml | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 1.53 mol, 58.0 g | [BH4-].[Na+]
reactant | hydrochloric acid | 825 ml, 4.3 eq | Cl | ClH
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.2 L | O1CCCC1 | C4H8O
product | 4-cyclohexylbenzyl alcohol | 63.8 g, yield 87.8% | C1(CCCCC1)C1=CC=C(CO)C=C1 | C13H18O
